US05922875
Preparation of 3-(1-naphthyl) glutaric anhydride
20 g of 3-(1-naphthyl) glutaric acid (0.0774 moles) prepared by the method described by Hey et al [J. Chem. Soc. 1949, 3177-81] were suspended in 400 mL of isopropyl ether. 36.5 mL of acetic anhydride (0.387 moles) were added and the suspension, well agitated, was heated under reflux for three hours. At the end of this time, the mixture was cooled to ambient temperature and the precipitate filtered off and washed well with isopropyl ether. After drying at 60° C. under vacuum, 13.9 g of the product were recovered.

reactant | 3-(1-naphthyl) glutaric acid | 0.0774 moles, 20 g | C1(=CC=CC2=CC=CC=C12)C(CC(=O)O)CC(=O)O | C15H14O4
reactant | acetic anhydride | 0.387 moles, 36.5 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | isopropyl ether | 400 mL | C(C)(C)OC(C)C | C6H14O
product | 3-(1-naphthyl) glutaric anhydride | C1(=CC=CC2=CC=CC=C12)C1CC(=O)OC(C1)=O | C15H12O3
